US09340549B2
To a 25 mL round bottom flask were added (S)-5,5-diethyl-4-phenyloxazolidin-2-one (0.3 g, 1.36 mmol), 4-iodo-N-(quinolin-8-yl)benzamide (0.560 g, 1.5 mmol), Cs2CO3 (0.972 g, 3.0 mmol), X-Phos (35 mg, 0.068 mmol), Pd2(dba)3 (62 mg, 0.068 mmol) and 1,4-dioxane (2 mL). The mixture was purged with N2 gas for 15 minutes. The reaction mixture was then heated at 90° C. for 6 hours. After completion of reaction (monitored by TLC, TLC eluent: 30% EtOAc in hexane), the reaction mixture was cooled to ambient temperature and treated with water (5 mL) and the mixture extracted with EtOAc (5 mL). The aqueous layer was back extracted with EtOAc (5 mL). The combined organic layers were dried over anhydrous Na2SO4 and concentrated. The crude material was purified with HPLC (column: AG/AD/C18-027, ramping ACN in H2O, 40-50% B, 0-2 minutes, 50-90% B, 2-10 minutes, flow rate 20 mL/min) to afford 50 mg of (S)-4-(5,5-diethyl-2-oxo-4-phenyloxazolidin-3-yl)-N-(quinolin-8-yl)benzamide as a brown solid. 1H NMR (300 MHz, CDCl3) δ: 10.67 (s, 1H), 8.96-8.80 (m, 2H), 8.20 (dd, J=8.3, 1.6 Hz, 1H), 7.99 (d, J=9 Hz, 2H), 7.68 (d, J=8.7 Hz, 2H), 7.62-7.56 (m, 2H), 7.57-7.47 (m, 1H), 7.40-7.36 (m, 3H), 7.28-7.24 (m, 2H), 5.15 (s, 1H), 2.04-1.96 (m, 2H), 1.39-1.20 (m, 2H), 1.12 (t, J=7.5 Hz, 3H), 0.85 (t, J=7.4 Hz, 3H). m/z (ESI) 466.2 (M+H)+.

reactant | (S)-5,5-diethyl-4-phenyloxazolidin-2-one | 1.36 mmol, 0.3 g | C(C)C1([C@@H](NC(O1)=O)C1=CC=CC=C1)CC | C13H17NO2
reactant | 4-iodo-N-(quinolin-8-yl)benzamide | 1.5 mmol, 0.560 g | IC1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1 | C16H11IN2O
reactant | Cs2CO3 | 3.0 mmol, 0.972 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | X-Phos | 0.068 mmol, 35 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
catalyst | Pd2(dba)3 | 0.068 mmol, 62 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 5 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (S)-4-(5,5-diethyl-2-oxo-4-phenyloxazolidin-3-yl)-N-(quinolin-8-yl)benzamide | 50 mg | C(C)C1([C@@H](N(C(O1)=O)C1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1)C1=CC=CC=C1)CC | C29H27N3O3
